US06320050B1
A solution of diisopropylamine (2.4 mL, 16.80 mmol) in dry tetrahydrofuran (7.5 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (2.5 mL) was cooled to −78° C. under nitrogen and then treated with a 2.5 M solution of n-butyllithium in hexanes (6.7 mL, 16.80 mmol). The resulting reaction mixture was stirred at −78° C. for 30 min and then treated dropwise with a solution of 4-(trifluoromethylthio)phenylacetic acid (1.89 g, 8.00 mmol) in dry tetrahydrofuran (7.5 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (2.5 mL). The reaction mixture was allowed to stir at −78° C. for 55 min, at which time, a solution of iodomethylcyclopentane (1.85 g, 8.80 mmol) in a small amount of dry tetrahydrofuran was added dropwise. The reaction mixture was allowed to warm to 25° C. where it was stirred for 41 h. The reaction mixture was quenched with water and then concentrated in vacuo to remove tetrahydrofuran. The remaining aqueous phase was acidified to pH=2 with a 10% aqueous hydrochloric acid solution and then extracted with ethyl acetate (300 mL). The organic layer was washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 3/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-trifluoromethylsulfanyl-phenyl)propionic acid (1.47 g, 58%) as a cream solid: mp 69-71° C.; EI-HRMS m/e calcd for C15H17F3O2S (M+) 318.0901, found 318.0912.

reactant | diisopropylamine | 16.80 mmol, 2.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-(trifluoromethylthio)phenylacetic acid | 8.00 mmol, 1.89 g | FC(SC1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2S
reactant | iodomethylcyclopentane | 8.80 mmol, 1.85 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 2.5 mL | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 2.5 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 3-cyclopentyl-2-(4-trifluoromethylsulfanyl-phenyl)propionic acid | 1.47 g, 58% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)SC(F)(F)F | C15H17F3O2S
